US05189054
Scheme I, step d2 : 3-[(phenacyl)amino]-2-carbethoxy-5,6-dichloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(phenacyl)amino]-2-carbethoxy-5,6-dichloroindole (2 g, 4.8 mmol), di-tert-butyl dicarbonate (1 g, 4.8 mmol), tetrahydrofuran (90 mL), dimethylaminopyridine (42 mg, 0.3 mmol) and stir at room temperture for 1 hour. Dilute with ethyl acetate (100 mL), wash with water, saturated sodium chloride, dry orver magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from ethyl acetate/hexane to yield the title compound.

reactant | 3-[(phenacyl)amino]-2-carbethoxy-5,6-dichloroindole | 4.8 mmol, 2 g | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=C(C=C12)Cl)Cl)C(=O)OCC | C19H16Cl2N2O3
reactant | di-tert-butyl dicarbonate | 4.8 mmol, 1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 0.3 mmol, 42 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)amino]-2-carbethoxy-5,6-dichloro-1-(tert-butyloxycarbonyl)-indole | C(C(=O)C1=CC=CC=C1)NC1=C(N(C2=CC(=C(C=C12)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC | C24H24Cl2N2O5
